US06967204B2
2,4-Dimethylbenzylcyanide (70 g, 0.48 mol) was mixed with water (134 ml) and concentrated sulfuric acid (106 ml, 1.98 mol) was added slowly. The reaction was heated to reflux for 3 hours, then cooled to room temperature over 18 hours. The mixture was poured onto crushed ice (500 ml), stirred for one hour and the resulting precipitate was isolated by filtration. After washing with water the solid was dissolved in 1.2M sodium hydroxide solution (500 ml), extracted with dichloromethane (2×250 ml) and the aqueous phase was treated with decolourising carbon (2 g) at reflux for 10 min and filtered hot through hyflo supercel. The filtrate was then acidified with concentrated hydrochloric acid and the resulting precipitate was isolated by filtration, washed with water and dried under vacuum to give 2,4-dimethyl-phenyl-acetic acid (52.6 g) as a white solid. 1H NMR (250 MHz, CD3OD/D2O): δ=6.88-7.03 (3H, m), 3.48-3.68 (2H, s), 2.23 (6H, s), ppm.

reactant | 2,4-Dimethylbenzylcyanide | 0.48 mol, 70 g | CC1=C(CC#N)C=CC(=C1)C | C10H11N
reactant | sulfuric acid | 1.98 mol, 106 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 134 ml | O | H2O
product | 2,4-dimethyl-phenyl-acetic acid | 52.6 g | CC1=C(C=CC(=C1)C)CC(=O)O | C10H12O2
